US06197783B1
14. (8R,9R)-3-Formyl-8-hydroxy-2-methyl-7-oxo-9-phenyl-7,8,9,10tetrahydroimidazo[1,2-h][1,7]naphthyridine
(8R,9R)-8-hydroxy-2,3-dimethyl-7-oxo-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine (1 g) is dissolved in 20 ml of dried chloroform, and 5 g of potassium permanganate was added. After stirring the reaction mixture at room temperature for 40 days, the solids are filtered off. The filtrate is chromatographed twice on silica gel (eluents: dichloromethane/methanol 13/1) to give 0.07 g of the title compound as a semisolid.

reactant | (8R,9R)-8-hydroxy-2,3-dimethyl-7-oxo-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 1 g | O[C@@H]1[C@H](NC=2C=3N(C=CC2C1=O)C(=C(N3)C)C)C3=CC=CC=C3 | C18H17N3O2
reactant | potassium permanganate | 5 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | (8R,9R)-3-Formyl-8-hydroxy-2-methyl-7-oxo-9-phenyl-7,8,9,10tetrahydroimidazo[1,2-h][1,7]naphthyridine | 0.07 g | C(=O)C1=C(N=C2N1C=CC=1C([C@@H]([C@H](NC21)C2=CC=CC=C2)O)=O)C | C18H15N3O3
